US06844466B2
A solution of methyl 3-fluoro-4-[3-pentyl-3-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-naphthalen-2-yl)-ureido]-benzoate (17 mg) in 10 mL THF/3 mL methanol/3 mL water was treated with lithium hydroxide hydrate (20 mg). The mixture was stirred at room temperature for two hours. The mixture was diluted with 5 mL water and the pH was adjusted to 2 with conc. HCl. The mixture was extracted with three 10 mL portions of ether. The combined organic extracts were dried over MgSO4, filtered and concentrated in vacuo, giving a brown solid. The product was purified by trituration in hexanes, yielding 12 mg 3-fluoro4-[3-pentyl-3-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-naphthalen-2-yl)-ureido]-benzoic acid as a yellow solid. M.P. 151-157° C.

reactant | methyl 3-fluoro-4-[3-pentyl-3-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-naphthalen-2-yl)-ureido]-benzoate | 17 mg | FC=1C=C(C(=O)OC)C=CC1NC(=O)N(C1=CC=2C(CCC(C2C=C1)(C)C)(C)C)CCCCC | C28H37FN2O3
reactant | lithium hydroxide hydrate | 20 mg | O.[OH-].[Li+]
reactant | HCl | Cl | ClH
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | water | 5 mL | O | H2O
product | 3-fluoro4-[3-pentyl-3-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-naphthalen-2-yl)-ureido]-benzoic acid | 12 mg | FC=1C=C(C(=O)O)C=CC1NC(=O)N(C1=CC=2C(CCC(C2C=C1)(C)C)(C)C)CCCCC | C27H35FN2O3
